US09326973B2
To a solution of (S)-ethyl 2-((S)-1,1-dimethylethylsulfinamido)-4-fluoro-3,3-dimethylbutanoate (0.38 g, 1.350 mmol) in MeOH (10 mL) was added HCl/dioxane (1.350 mL, 5.40 mmol). The reaction mixture was stirred at rt for 30 min and concentrated to afford (S)-ethyl 2-amino-4-fluoro-3,3-dimethylbutanoate/HCl as a white solid (0.29 g).

reactant | (S)-ethyl 2-((S)-1,1-dimethylethylsulfinamido)-4-fluoro-3,3-dimethylbutanoate | 1.350 mmol, 0.38 g | CC(C)([S@](=O)N[C@H](C(=O)OCC)C(CF)(C)C)C | C12H24FNO3S
reactant | HCl dioxane | 5.40 mmol, 1.350 mL | Cl.O1CCOCC1
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-ethyl 2-amino-4-fluoro-3,3-dimethylbutanoate HCl | 0.29 g | N[C@H](C(=O)OCC)C(CF)(C)C.Cl | InChI=1S/C8H16FNO2.ClH/c1-4-12-7(11)6(10)8(2,3)5-9;/h6H,4-5,10H2,1-3H3;1H/t6-;/m1./s1
